US04235820
N-Methyl-3-(3,7-diiodo-5H-dibenzo[a,d]cyclohepten-5-yl)propylamine hydrochloride
N,N-Dimethyl-3-(3,7-diiodo-5H-dibenzo[a,d]cyclohepten-5-yl)propylamine (7.3 g., 0.014 mole) in 30 ml. of benzene is added dropwise to 1.6 g. (0.015 mole) of vinyl chloroformate in 25 ml. of benzene stirred in an ice bath. Upon completion of the addition, the mixture is stirred at 30° for 15 minutes, and at 50°, another 60 minutes. The clear, pale yellow supernatant is decanted from the residual gum, filtered, and evaporated in vacuo to a yellow oil.

reactant | N,N-Dimethyl-3-(3,7-diiodo-5H-dibenzo[a,d]cyclohepten-5-yl)propylamine | 0.014 mole, 7.3 g | CN(C)CCCC1C2=C(C=CC3=C1C=C(C=C3)I)C=CC(=C2)I | C20H21I2N
reactant | vinyl chloroformate | 0.015 mole | ClC(=O)OC=C | C3H3ClO2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-Methyl-3-(3,7-diiodo-5H-dibenzo[a,d]cyclohepten-5-yl)propylamine hydrochloride | Cl.CNCCCC1C2=C(C=CC3=C1C=C(C=C3)I)C=CC(=C2)I | InChI=1S/C19H19I2N.ClH/c1-22-10-2-3-17-18-11-15(20)8-6-13(18)4-5-14-7-9-16(21)12-19(14)17;/h4-9,11-12,17,22H,2-3,10H2,1H3;1H
